US05310743
(2R*,4S*)-2-benzyl-1-((S)-phenylalanyl)-N-(4-quinolylmethyl)-4-piperidinamine
3.1 ml (4.09 mmol) of trifluoroacetic acid are added to 920 mg (1.36 mmol) of (2R*,4S*)-2-benzyl-1-((S)-N-tert.-butyloxycarbonyl-phenylalanyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine, and the reaction mixture is stirred at room temperature for 2 hours. It is then concentrated in a rotary evaporator, the residue is taken up in water, basified with 1N sodium bicarbonate solution at 0° C. and extracted with methylene chloride. The organic phases are washed with brine, dried over magnesium sulfate and evaporated to dryness. The residue is chromatographed on silica gel with methylene chloride/methanol/conc. ammonia (2500:50:1) to separate the diastereomers. TLC: methylene chloride/methanol/conc. ammonia (1000:50:1)

reactant | trifluoroacetic acid | 4.09 mmol, 3.1 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | (2R*,4S*)-2-benzyl-1-((S)-N-tert.-butyloxycarbonyl-phenylalanyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 1.36 mmol, 920 mg | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C([C@@H](NC(=O)OC(C)(C)C)CC1=CC=CC=C1)=O | C38H41F3N4O4
product | (2R*,4S*)-2-benzyl-1-((S)-phenylalanyl)-N-(4-quinolylmethyl)-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)NCC1=CC=NC2=CC=CC=C12)C([C@@H](N)CC1=CC=CC=C1)=O | C31H34N4O
